US07947835B2
4-(6-Bromo-imidazo[1,2-a]pyrazin-8-ylamino)-benzonitrile
A mixture of 4-aminobenzonitrile (220 mg; 1.89 mmol) and 6,8-dibromo-imidazo[1,2-a]pyrazine (500 mg; 1.81 mmol) is slurried in DMF (1 mL) and heated to 140° C. for 20 minutes. The reaction is allowed to cool, and when the bath reaches 75° C., ethyl acetate (40 mL) is added and the slurry is stirred to break up large solid lumps into fine powder. The powdered 4-(6-bromo-imidazo[1,2-a]pyrazin-8-ylamino)-benzonitrile is filtered, washed with diethyl ether (2×50 mL) and dried under vacuum to a fine orange/tan solid (600 mg).

reactant | 4-aminobenzonitrile | 1.89 mmol, 220 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | 6,8-dibromo-imidazo[1,2-a]pyrazine | 1.81 mmol, 500 mg | BrC=1N=C(C=2N(C1)C=CN2)Br | C6H3Br2N3
reactant | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-(6-Bromo-imidazo[1,2-a]pyrazin-8-ylamino)-benzonitrile | BrC=1N=C(C=2N(C1)C=CN2)NC2=CC=C(C#N)C=C2 | C13H8BrN5
